US08729064B2
To a solution of 2-cyclohexyl-benzooxazole-6-carboxylic acid (0.47 g, 1.9 mmol) and HBTU (0.94 g, 2.5 mmol) in DMF (10 mL) was added DIPEA (1.4 mL, 7.6 mmol). The resulting mixture was stirred at room temperature for 10 min, and then the hydrochloride salt of azetidin-3-ol (0.452 g, 4.7 mmol) was added. The resulting mixture was stirred at room temperature for 1 h, and then purified by reverse phase liquid chromatography. Fractions containing product were lyophilized to yield (2-cyclohexyl-benzooxazol-6-yl)-(3-hydroxy-azetidin-1-yl)-methanone. MS m/z (M+H+) 301.

reactant | 2-cyclohexyl-benzooxazole-6-carboxylic acid | 1.9 mmol, 0.47 g | C1(CCCCC1)C=1OC2=C(N1)C=CC(=C2)C(=O)O | C14H15NO3
reactant | HBTU | 2.5 mmol, 0.94 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 7.6 mmol, 1.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | azetidin-3-ol | 4.7 mmol, 0.452 g | N1CC(C1)O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2-cyclohexyl-benzooxazol-6-yl)-(3-hydroxy-azetidin-1-yl)-methanone | C1(CCCCC1)C=1OC2=C(N1)C=CC(=C2)C(=O)N2CC(C2)O | C17H20N2O3
